US04626533
1.0 g. of 7-bromoacetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-carboxylic acid and 0.36 g. of 2-phenyl-5-mercapto-1,3,4-oxadiazole were dissolved in 10 ml. of dimethyl formamide and 0.28 g. of calcinated potassium carbonate were added. The reaction mixture was stirred at room temperature for 8 hours, 30 ml. of ether were added, the precipitate was filtered off and dissolved in 30 ml. of water. The solution was adjusted to pH 5 by adding dilute sulphuric acid and extracted with 20 ml. of ethyl acetate. The aqueous layer was adjusted to pH 2 by adding dilute sulphuric acid and extracted with 60 ml. of ethyl acetate. The organic extract was dried over magnesium sulphate. The solvent was evaporated in vacuo and the residue was treated with ether and dried. 0.72 g. of 7-(2-phenyl-1,3,4-oxadiazole-5-ylthio)acetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid were obtained.

reactant | 7-bromoacetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-carboxylic acid | BrCC(=O)NC1[C@@H]2N(C=C(C(S2)C(=O)O)CNC(C2=C(C=CC=C2Cl)Cl)=O)C1=O | C17H14BrCl2N3O5S
reactant | 2-phenyl-5-mercapto-1,3,4-oxadiazole | C1(=CC=CC=C1)C=1OC(=NN1)S | C8H6N2OS
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ether | CCOCC | C4H10O
product | 7-(2-phenyl-1,3,4-oxadiazole-5-ylthio)acetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid | Yield: 58% | C1(=CC=CC=C1)C=1OC(=NN1)SCC(=O)NC1[C@@H]2N(C(=C(CS2)CNC(C2=C(C=CC=C2Cl)Cl)=O)C(=O)O)C1=O | C25H19Cl2N5O6S2
